US07812019B2
4-(3-Trifluoromethyl-phenyl)-butyric acid
To a solution of sodium hydroxide (4.0 g, 100 mmol) in water (50 mL) was added 3-trifluoromethyl-phenol (5.4 g, 33.4 mmol) and the mixture was refluxed for 6 hrs. The pH of the solution was kept at about 10 by adding more of aqueous sodium hydroxide. The mixture was cooled to ambient temperature and extracted with ethyl acetate. The aqueous layer was treated with 3N HCl and extracted with ethyl acetate. The combined organic layers was concentrated to obtain 2.5 g of the title compound, which was used directly in the next step. 1H NMR (300 MHz, d6-DMSO) δ 12.40 (broad s, 1H), 7.51 (t, J 7.5 Hz, 1H), 7.24 (m, 3H), 4.23 (t, J 6.0 Hz, 2H), 2.71 (t, J 6.0 Hz, 2H).

reactant | sodium hydroxide | 100 mmol, 4.0 g | [OH-].[Na+]
reactant | 3-trifluoromethyl-phenol | 33.4 mmol, 5.4 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | water | 50 mL | O | H2O
product | 4-(3-Trifluoromethyl-phenyl)-butyric acid | 2.5 g | FC(C=1C=C(C=CC1)CCCC(=O)O)(F)F | C11H11F3O2
